US03988373
A solution of [3-(2,6,6-trimethyl-1-cyclohexenyl)-2(trans)-propenyl]dimethylamine (2.0 g) and propargylbromide (2.0 g) in methanol (20 cc) was refluxed for 1 hour, and concentrated. To the residue was added water, and the aqueous solution was washed with ether and extracted with chloroform. The chloroform layer was dried and concentrated to dryness to give an oil (2.9 g) of [3-(2,6,6-trimethyl-1-cyclohexenyl)-2(trans)-propenyl]dimethylpropargylammonium bromide.

reactant | [3-(2,6,6-trimethyl-1-cyclohexenyl)-2(trans)-propenyl]dimethylamine | 2.0 g | CC1=C(C(CCC1)(C)C)/C=C/CN(C)C | C14H25N
reactant | propargylbromide | 2.0 g | C(C#C)Br | C3H3Br
reactant | methanol | 20 cc | CO | CH4O
product | [3-(2,6,6-trimethyl-1-cyclohexenyl)-2(trans)-propenyl]dimethylpropargylammonium bromide | 2.9 g | [Br-].CC1=C(C(CCC1)(C)C)/C=C/C[N+](CC#C)(C)C | InChI=1S/C17H28N.BrH/c1-7-13-18(5,6)14-9-11-16-15(2)10-8-12-17(16,3)4;/h1,9,11H,8,10,12-14H2,2-6H3;1H/q+1;/p-1/b11-9+;
